US08426447B2
(4S)-2′-Bromo-7′-(2-pyridinyloxy)spiro[1,3-oxazole-4,9′-xanthen]-2-amine (380 mg, 0.896 mmol), copper(i) iodide (34.1 mg, 0.179 mmol), tetrakis(triphenylphosphine)palladium (104 mg, 0.090 mmol), 3,3-dimethylbut-1-yne (221 mg, 2.69 mmol) and DMF (3583 μL, 0.896 mmol) were combined in a sealable tube. The reaction vessel was flushed with argon then di-isopropyl amine (3766 μL, 26.9 mmol) was added and the vessel was sealed and heated at 90° C. for 2 hours. The reaction was diluted with water (50 mL) and poured into a separatory funnel containing ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water and then brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown foam that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (40 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to (4R)-2′-(3,3-dimethyl-1-butyn-1-yl)-7′-(2-pyridinyloxy)spiro[1,3-oxazole-4,9′-xanthen]-2-amine (245 mg, 0.576 mmol, 64.3% yield) as a light yellow solid. MS m/z=426.2 [M+H]+. Calc'd for C26H24N3O3: 426.2.

reactant | (4S)-2′-Bromo-7′-(2-pyridinyloxy)spiro[1,3-oxazole-4,9′-xanthen]-2-amine | 0.896 mmol, 380 mg | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)OC1=NC=CC=C1)N=C(OC3)N | C20H14BrN3O3
reactant | 3,3-dimethylbut-1-yne | 2.69 mmol, 221 mg | CC(C#C)(C)C | C6H10
reactant | DMF | 0.896 mmol, 3583 μL | CN(C)C=O | C3H7NO
reactant | di-isopropyl amine | 26.9 mmol, 3766 μL | C(C)(C)NC(C)C | C6H15N
solvent | water | 50 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
solvent | ammonium hydroxide | [OH-].[NH4+]
catalyst | copper(i) iodide | 0.179 mmol, 34.1 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.090 mmol, 104 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (4R)-2′-(3,3-dimethyl-1-butyn-1-yl)-7′-(2-pyridinyloxy)spiro[1,3-oxazole-4,9′-xanthen]-2-amine | 0.576 mmol, 245 mg, 64.3% yield | CC(C#CC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)OC1=NC=CC=C1)N=C(OC3)N)(C)C | C26H23N3O3
